* Differential Pair with Tail Current Source - SKY130
* Simple NMOS differential pair (M1, M2) biased by a tail
* current source (M3). Outputs are taken at the drains.

.global VSS
.subckt diff_pair VSS INP INN OUTP OUTN BIAS

* M1 — input NMOS (positive input)
* Drain=OUTN, Gate=INP, Source=tail, Bulk=VSS
M1 OUTN INP tail VSS sky130_fd_pr__nfet_01v8 W=2.0000e-06 L=1.5000e-07 m=1

* M2 — input NMOS (negative input)
* Drain=OUTP, Gate=INN, Source=tail, Bulk=VSS
M2 OUTP INN tail VSS sky130_fd_pr__nfet_01v8 W=2.0000e-06 L=1.5000e-07 m=1

* M3 — tail current source
* Drain=tail, Gate=BIAS, Source=VSS, Bulk=VSS
M3 tail BIAS VSS VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2

.ends diff_pair
